US07205320B2
3-Cyclopentyloxy-4-methoxy-N-(3-pyridylmethyl)diphenylamine
To a 100 mL oven dried, argon flushed flask was added in the following order 0.59 g (6.10 mmol) of NaOtBu, 360 mg of Pd2dba3, 20 mL of toluene, 0.14 mL of P(tBu)3, and a 20 mL solution of 1.3 g (4.36 mmol) of N-(3-pyridylmethyl)-3-cyclopentyloxy-4-methoxyaniline in toluene. With stirring, 3.1 g (15 mmol) of iodobenzene was added dropwise and the mixture was stirred for 18 hours. The reaction mixture was diluted with EtOAc and washed twice with H2O and extracted with 3×15 mL of 3N HCl. The combined acid extracts were washed with 15 mL of EtOAc and then carefully neutralized with 6N NaOH to pH greater than 12. The basic solution was extracted with 2×15 mL of EtOAc and the combined organic fractions were subsequently washed with 15 mL of H2O and brine, dried (MgSO4), and concentrated. The residue was purified by chromatography over silica gel (Biotage Flash 40M) eluting with 25% EtOAc in hexanes. The material was further purified by crystallization from hexanes to give 550 mg of a white solid. 1H NMR (CDCl3) δ 8.61 (s, 1H), 8.49 (d, 1H, J=4.2 Hz), 7.67 (d, 1H, 7.9 Hz), 7.30–7.10 (m, 3H), 6.90–6.80 (m, 4H), 6.80–6.60 (m, 2H), 4.94 (s, 2H), 4.64 (p, 1H, J=4.1 Hz), 3.84 (s, 3H), 1.86–1.70 (m, 6H), 1.65–1.45 (m, 2H).

reactant | NaOtBu | 6.10 mmol, 0.59 g | CC(C)(C)[O-].[Na+]
reactant | P(tBu)3 | 0.14 mL | P(C(C)(C)C)(C(C)(C)C)C(C)(C)C | C12H27P
reactant | N-(3-pyridylmethyl)-3-cyclopentyloxy-4-methoxyaniline | 4.36 mmol, 1.3 g | N1=CC(=CC=C1)CNC1=CC(=C(C=C1)OC)OC1CCCC1 | C18H22N2O2
reactant | iodobenzene | 15 mmol, 3.1 g | IC1=CC=CC=C1 | C6H5I
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
catalyst | Pd2dba3 | 360 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
product | 3-Cyclopentyloxy-4-methoxy-N-(3-pyridylmethyl)diphenylamine | 550 mg | C1(CCCC1)OC1(CN=CC=C1OC)CN(C1=CC=CC=C1)C1=CC=CC=C1 | C24H28N2O2
